US04109000
One gram of methyl 5-(4-aminobenzyl)picolinate were heated together with 10 ml. of acetic anhydride under reflux for two hours. The reaction mixture was concentrated under reduced pressure. The residue was added with n-hexane to form crystals. The crystals were then recrystallized from a solvent comprising a mixture of chloroform/n-hexane to obtain 0.8 g of methyl 5-(4-acetaminobenzyl)-picolinate of a melting point of 175°-177° C.

reactant | methyl 5-(4-aminobenzyl)picolinate | One gram | NC1=CC=C(CC=2C=CC(=NC2)C(=O)OC)C=C1 | C14H14N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 5-(4-acetaminobenzyl)-picolinate | 0.8 g | N(C(=O)C)C1=CC=C(CC=2C=CC(=NC2)C(=O)OC)C=C1 | C16H16N2O3
